Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.019742988469998
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8].[H:9]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],-4.44768950292
[H:17].[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.56213611579
[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]#[C:4][O:5][C:6],6.33333611156
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2],5.278722574430001
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:7](\[H:8])[O:9][H:10].[H:6]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-5.04279301786
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8],3.59935002626
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],2.29618739689
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3](=[C:4])[C:10]([H:11])([H:12])[H:13],3.48991262615
[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-2.45941648284
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.87943181197
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],7.45969019577
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],3.00805941757
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2],3.36148771207
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],8.7050467499
[C:4]([H:5])([H:6])[O:7][H:8].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8],-3.96732504738
[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],0.0996919754698
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])[C:6]#[C:7].[C:5]([H:8])[H:9],7.96653366881
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12].[H:1][C:2],10.65181274
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8]>>[C:2]#[C:3][O:4][C:5]#[C:6][O:7][H:8].[H:1],5.66516598619
[H:1][C:2]1[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]=[C:11]([H:12])[H:13],0.4342334827100001
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4],3.19371303071
[C:1]#[C:2][O:5][C:6]([H:7])=[C:8][H:9].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:8][H:9],-4.2251205692100005
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8].[H:9],4.36642405651
[C:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-8.42746573332
[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5845578131
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[H:4],1.26131323112
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9],4.93678242742
[O:1]=[C:2]1[O:3][C:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[O:1]=[C:2][C:8]([C:5]([C:4]=[O:3])([H:6])[H:7])([H:9])[H:10],0.90327159898
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14],4.603332879680001
